US06803488B2
A reaction was carried out in the same manner as in Example 1-3, except that the mixture (2.1 g) was changed to a mixture of (CF3)2CFOCOCF(CF3)OCF2CF(CF3)OCF2CF2CF3 and (CF3)2CHOCOCF(CF3)OCF2CF(CF3)OCF2CF2CF3 in a ratio of 8:2 (mass ratio) (hereinafter this mixture will be referred to as the fluorinated ester mixture, 10.0 g), and the NaF powder (0.02 g) was changed to KF powder (0.03 g). After cooling, a liquid sample (7.9 g) and a gas sample (1.9 g) were recovered. They were respectively analyzed by GC-MS, whereby it was confirmed that in the gas sample, the above-identified compound was the main product, and in the liquid sample, FCOCF(CF3)OCF2CF(CF3)OCF2CF2CF3 was the main product. The yield of the above-identified compound as calculated by GC in the same manner as in Example 1-3, was 95.2%. Further, from the liquid sample, FCOCF(CF3)OCF2CF(CF3)OCF2CF2CF3 (5.9 g) was obtained.

reactant | (CF3)2CFOCOCF(CF3)OCF2CF(CF3)OCF2CF2CF3 | C(F)(C(F)(F)F)(C(F)(F)F)OC(=O)C(F)(C(F)(F)F)OC(F)(F)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C12F24O4
reactant | (CF3)2CHOCOCF(CF3)OCF2CF(CF3)OCF2CF2CF3 | C(C(F)(F)F)(C(F)(F)F)OC(=O)C(F)(C(F)(F)F)OC(F)(F)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C12HF23O4
reactant | NaF | 0.02 g | [F-].[Na+]
reactant | KF | 0.03 g | [F-].[K+]
product | FCOCF(CF3)OCF2CF(CF3)OCF2CF2CF3 | 5.9 g | FC(=O)C(F)(C(F)(F)F)OC(F)(F)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C9F18O3
